US07960409B2
(S)-1,1,1-trifluoro-2-(1-{[4-(4-fluorophenyl)-2-(1-methoxyethyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)butan-2-ol
To a solution of (S)-1,1,1-trifluoro-2-(1-{[4-(4-fluorophenyl)-2-(1-hydroxyethyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)butan-2-ol (33 mg, 0.070 mmol) in THF (1 mL) was added iodomethane (5 μL, 0.077 mmol) and sodium hydride 60% in oil (6 mg, 0.15 mmol). After 2 h at rt, the reaction was quenched with saturated aqueous NH4Cl and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduce pressure. Purification on silica gel (eluting with acetone/dichloromethane, 2:8) gave the title compound. MS (+ESI): 490 (M+H)+.

reactant | (S)-1,1,1-trifluoro-2-(1-{[4-(4-fluorophenyl)-2-(1-hydroxyethyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)butan-2-ol | 0.070 mmol, 33 mg | FC([C@@](CC)(O)C=1N=NN(C1)CC1=CC=C2C(=CC(=NC2=C1)C(C)O)C1=CC=C(C=C1)F)(F)F | C24H22F4N4O2
reactant | iodomethane | 0.077 mmol, 5 μL | IC | CH3I
reactant | sodium hydride | [H-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (S)-1,1,1-trifluoro-2-(1-{[4-(4-fluorophenyl)-2-(1-methoxyethyl)quinolin-7-yl]methyl}-1H-1,2,3-triazol-4-yl)butan-2-ol | FC([C@@](CC)(O)C=1N=NN(C1)CC1=CC=C2C(=CC(=NC2=C1)C(C)OC)C1=CC=C(C=C1)F)(F)F | C25H24F4N4O2
